US04880809
Using 6,7-dibenzyloxy-1,2-dihydro-3-naphthoic acid (0.5 g), 1-(3,4,5-trimethoxybenzyl)piperazine dihydrochloride (0.69 g), triethylamine (0.52 g), N,N-dimethylformamide (10 ml) and diethyl phosphorocyanidate (0.75 ml), as amidation as that described in Example 6 is carried out. The product is purified by silica gel column chromatography (hexane:acetone=1:1-1:2) and converted to the hydrochloride in a mixture of ethyl acetate and ethyl ether to yield 1-(6,7-dibenzyloxy-1,2-dihydro-3-naphthoyl)-4-(3,4,5-trimethoxybenzyl)piperazine hydrochloride (0.6 g) as colorless crystals, m.p. 186°-190° C.

reactant | 6,7-dibenzyloxy-1,2-dihydro-3-naphthoic acid | 0.5 g | C(C1=CC=CC=C1)OC=1C=C2C=C(CCC2=CC1OCC1=CC=CC=C1)C(=O)O | C25H22O4
reactant | 1-(3,4,5-trimethoxybenzyl)piperazine dihydrochloride | 0.69 g | Cl.Cl.COC=1C=C(CN2CCNCC2)C=C(C1OC)OC
reactant | triethylamine | 0.52 g | C(C)N(CC)CC | C6H15N
reactant | diethyl phosphorocyanidate | 0.75 ml | P(OCC)(OCC)(=O)C#N | C5H10NO3P
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-(6,7-dibenzyloxy-1,2-dihydro-3-naphthoyl)-4-(3,4,5-trimethoxybenzyl)piperazine hydrochloride | 0.6 g | Cl.C(C1=CC=CC=C1)OC=1C=C2C=C(CCC2=CC1OCC1=CC=CC=C1)C(=O)N1CCN(CC1)CC1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C39H42N2O6.ClH/c1-43-36-20-30(21-37(44-2)38(36)45-3)25-40-16-18-41(19-17-40)39(42)32-15-14-31-23-34(46-26-28-10-6-4-7-11-28)35(24-33(31)22-32)47-27-29-12-8-5-9-13-29;/h4-13,20-24H,14-19,25-27H2,1-3H3;1H
